US09212190B2
To a solution of tert-butyl N-(2-[4-chlorothieno[2,3-d]pyrimidin-6-yl]ethyl)carbamate (100 mg, 0.32 mmol, 1.00 equiv) in freshly distilled THF (20 mL) was added sodium hydride (64 mg, 1.6 mmol, 5.0 equiv, 60% dispersion in mineral oil) at 0° C. under nitrogen. After stirring for 30 min at room temperature, a solution of 4-(dimethylamino)cyclohexan-1-ol (50 mg, 0.35 mmol, 1.06 equiv) was added and stirred overnight at room temperature. The reaction was then quenched by the addition of brine and extracted with EtOAc. The organic layers was combined and dried over anhydrous sodium sulfate. After filtration and concentration, the residue was applied onto a silica gel column with DCM/MeOH (50:1-30:1) to provide 70 mg (52%) of tert-butyl N-[2-(4-[[4-(dimethylamino)cyclohexyl]oxy]thieno[2,3-d]pyrimidin-6-yl)ethyl]carbamate as a light yellow solid. MS (ES): m/z 421 (M+H)+.

reactant | tert-butyl N-(2-[4-chlorothieno[2,3-d]pyrimidin-6-yl]ethyl)carbamate | 0.32 mmol, 100 mg, 1.00 equiv | ClC=1C2=C(N=CN1)SC(=C2)CCNC(OC(C)(C)C)=O | C13H16ClN3O2S
reactant | sodium hydride | 1.6 mmol, 64 mg, 5.0 equiv | [H-].[Na+]
reactant | 4-(dimethylamino)cyclohexan-1-ol | 0.35 mmol, 50 mg, 1.06 equiv | CN(C1CCC(CC1)O)C | C8H17NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl N-[2-(4-[[4-(dimethylamino)cyclohexyl]oxy]thieno[2,3-d]pyrimidin-6-yl)ethyl]carbamate | 70 mg, 52% | CN(C1CCC(CC1)OC=1C2=C(N=CN1)SC(=C2)CCNC(OC(C)(C)C)=O)C | C21H32N4O3S
